US06359138B1
(RS)-6-methoxy-1-oxo-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester (2.0 g, 8.05 mmol) in MeOH (20 ml) and Pd/C (10%), (200 mg) was stirred vigorously under a hydrogen atmosphere for 3 hr at ambient temperature. The catalyst was removed and solvent evaporated to afford an oil, which was purified by chromatography over SiO2 (Merck 230-400 mesh) eluting with EtOAc-nHexane (1:9) to afford (RS)-6-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester as a colourless oil (1.88 g, 6.14 mmol, 76%), MS ml/e=234.1 (M+).

reactant | (RS)-6-methoxy-1-oxo-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester | 8.05 mmol, 2.0 g | C(C)OC(=O)C1C(C2=CC=C(C=C2CC1)OC)=O | C14H16O4
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (RS)-6-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester | 6.14 mmol, 1.88 g, 76% | C(C)OC(=O)C1CC2=CC=C(C=C2CC1)OC | C14H18O3
